US09193741B2
Synthesis of 7-(benzylthio)-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidin-5-amine
To a solution of 5-amino-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidine-7-thiol (50 mg, 0.18 mmol) and triethylamine (63 μl, 0.45 mmol) in DMSO (1 ml) was added benzyl bromide (43 μl, 0.36 mmol). The reaction mixture was stirred under N2 at 25° C. for 3 hours. The mixture was poured onto water and extracted with EtOAc. The organic extracts were dried over Na2SO4 and the solvents were removed under reduced pressure. The residue was purified by flash chromatography on silica (CH2Cl2/MeOH 100:1) to yield the title compound as a light yellow solid (40 mg, 60%).

reactant | 5-amino-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidine-7-thiol | 0.18 mmol, 50 mg | NC=1N=C(C2=C(N1)SC(=N2)C2=CC=C(C=C2)F)S | C11H7FN4S2
reactant | triethylamine | 0.45 mmol, 63 μl | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 0.36 mmol, 43 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 7-(benzylthio)-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidin-5-amine | 40 mg, 60% | C(C1=CC=CC=C1)SC=1C2=C(N=C(N1)N)SC(=N2)C2=CC=C(C=C2)F | C18H13FN4S2
